US06610711B2
4-(3-(1-Methylethoxy)phenyl)-1-piperidinecarboxylic acid phenyl ester
To N-ethyl-4-(3-(1-methylethoxy)phenyl)piperidine (Preparation 45, 2.0 g, 8.10 mmol) in toluene (20 ml) at 85° C. was added phenyl chloroformate (1.0 ml, 9.70 mmol) and the mixture was heated at reflux for 4 h. The solution was cooled to 45° C. and aqueous sodium hydroxide solution (1 ml of 50% aqueous sodium hydroxide solution in 8 ml of water) was added. The reaction mixture was cooled to room temperature and the organic layer was separated and washed with methanol: 1N aqueous hydrochloric acid (1:1, 2×20 ml), methanol: 1N aqueous sodium hydroxide solution (1:1, 25 ml) and water (20 ml). The organic extract was dried (MgSO4), filtered and concentrated in vacuo to give the crude product. This was purified by silica column chromatography eluting with ethyl acetate:hexane (1:5) to give the title compound as an oil (1.7 g, 62%).

reactant | N-ethyl-4-(3-(1-methylethoxy)phenyl)piperidine | 8.10 mmol, 2.0 g | C(C)N1CCC(CC1)C1=CC(=CC=C1)OC(C)C | C16H25NO
reactant | phenyl chloroformate | 9.70 mmol, 1.0 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(3-(1-Methylethoxy)phenyl)-1-piperidinecarboxylic acid phenyl ester | 1.7 g, 62% | C1(=CC=CC=C1)OC(=O)N1CCC(CC1)C1=CC(=CC=C1)OC(C)C | C21H25NO3
